US06156757
A mixture of O-phenylhydroxylamine hydrochloride (1:1) (0.625 mol) and 4,4-piperidinediol hydrochloride (1:1) (0.682 mol) in 2-propanol (615 ml) was stirred at 20° C. HCl (353 ml) was added dropwise at 20° C. The reaction mixture was gently heated to reflux temperature. The reaction mixture was stirred and refluxed for 3 hours, then cooled to room temperature. The precipitate was filtered off, washed with DIPE, and dried. This fraction was crystallized from water (1600 ml). The desired compound was allowed to crystallize out while stirring. The precipitate was filtered off, washed with 2-propanol and DIPE, then dried, yielding 84 g (64%) of 1,2,3,4-tetrahydrobenzofuro[3,2-c]pyridine hydrochloride (1:1) (interm. 1).

reactant | O-phenylhydroxylamine hydrochloride | 0.625 mol | Cl.C1(=CC=CC=C1)ON
reactant | 4,4-piperidinediol hydrochloride | 0.682 mol | Cl.N1CCC(CC1)(O)O
reactant | HCl | 353 ml | Cl | ClH
solvent | 2-propanol | 615 ml | CC(C)O | C3H8O
product | 1,2,3,4-tetrahydrobenzofuro[3,2-c]pyridine hydrochloride | 84 g, 64% | Cl.C1NCCC2=C1C1=C(O2)C=CC=C1 | InChI=1S/C11H11NO.ClH/c1-2-4-10-8(3-1)9-7-12-6-5-11(9)13-10;/h1-4,12H,5-7H2;1H
